US06187774B1
In the same manner as in Example 102 except that 3-(4,5,6,7-tetrahydro-2-methyl-2H-indazol-3-yl)propionic acid obtained in Starting Material Synthesis Example 9 and 1-(4-methylphenyl)piperazine are used instead of 3-(4,5,6,7-tetrahydro-2H-indazol-3-yl)propionic acid obtained in Starting Material Synthesis Example 1 and 4-(4-chlorophenyl)piperidine, 4,5,6,7-tetrahydro-2-methyl-3-(3-(4-(4-methylphenyl)piperazin-1-yl)propyl)-2H-indazole is obtained.

reactant | 1-(4-methylphenyl)piperazine | CC1=CC=C(C=C1)N1CCNCC1 | C11H16N2
reactant | 3-(4,5,6,7-tetrahydro-2H-indazol-3-yl)propionic acid | N=1NC(=C2CCCCC12)CCC(=O)O | C10H14N2O2
reactant | 4-(4-chlorophenyl)piperidine | ClC1=CC=C(C=C1)C1CCNCC1 | C11H14ClN
product | 4,5,6,7-tetrahydro-2-methyl-3-(3-(4-(4-methylphenyl)piperazin-1-yl)propyl)-2H-indazole | CN1N=C2CCCCC2=C1CCCN1CCN(CC1)C1=CC=C(C=C1)C | C22H32N4
